US06831193B2
[3-(hydroxymethyl)phenyl](phenyl)methanone
3-benzoylbenzoic acid (6.26 g, 27.7 mmol) was carefully added in several portions to borane-N,N-diethylaniline complex (7.38 mL, 41.5 mmol) in anhydrous THF (60 mL) at ambient temperature. After 15 minutes, the reaction mixture was heated at reflux for 5 hours and then cooled to ambient temperature. The reaction mixture was diluted with diethyl ether, quenched with 1N HCl and the separated aqueous phase was extracted with diethyl ether. The organic layers were combined, washed with 1N HCl, brine, dried (Na2SO4), filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, 40% ethyl acetate/hexanes) to provide a mixture of the title compound and the diol, [3-(hydroxymethyl)phenyl](phenyl)methanol, as a colorless oil (3.59 g).

reactant | 3-benzoylbenzoic acid | 27.7 mmol, 6.26 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | [3-(hydroxymethyl)phenyl](phenyl)methanone | OCC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C14H12O2
